US09169212B2
To a mixture of tert-butyl N-but-3-enyl-N-(2-oxobut-3-enyl)carbamate (1.50 g, 6.27 mmol, 1.00 Eq) in DCM (250 mL), was added Zhan catalyst 1B (150.00 mg, 204.43 umol, 0.03 Eq) in one portion at 18° C. under N2. The mixture was stirred at 18° C. for 10 hr. TLC showed the reaction was completed. The mixture was concentrated in vacuum. The residue was purified by silica gel chromatography (PE/EA=30/1, 20/1) to afford tert-butyl 6-oxo-3,7-dihydro-2H-azepine-1-carboxylate (850.00 mg, 4.02 mmol, 64.17% yield) as yellow solid. 1H NMR (400 MHz, CHLOROFORM-d) 6.36-6.64 (m, 1H), 5.88-6.14 (m, 1H), 4.23-4.35 (m, 1H), 4.16 (s, 1H), 3.51-3.68 (m, 2H), 2.62-2.78 (m, 2H), 1.46 (d, J=17.32 Hz, 1H)

reactant | tert-butyl N-but-3-enyl-N-(2-oxobut-3-enyl)carbamate | 6.27 mmol, 1.50 g, 1.00 Eq | C(CC=C)N(C(OC(C)(C)C)=O)CC(C=C)=O | C13H21NO3
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 6-oxo-3,7-dihydro-2H-azepine-1-carboxylate | 4.02 mmol, 850.00 mg, 64.17% yield | O=C1C=CCCN(C1)C(=O)OC(C)(C)C | C11H17NO3
